US09238631B2
e) di-tert-butyl (4S)-4-{4-[2-(benzyloxy)ethoxy]-3-tert-butoxybenzyl}-N-(tert-butoxycarbonyl)-L-glutamate
To a solution of 327 mg (0.91 mmol) di-tert-butyl N-(tert-butoxycarbonyl)-L-glutamate in 10 ml THF was added 2 ml (2 mmol) lithium bis(trimethylsilyl)amide solution in THF drop by drop at −78° C. The reaction mixture was stirred for 2 hours. 300 mg (0.76 mmol) 1-[2-(benzyloxy)ethoxy]-4-(bromomethyl)-2-tert-butoxybenzene in 2 ml THF were added at −78° C. The reaction mixture was stirred for 2 hours. 4.5 ml aqueous hydrogen chloride solution (2N) is added drop by drop. The solution was allowed to be warmed to room temperature. The solution was extracted repeatedly with dichloro methane. The combined organic phases were washed with water, dried with sodium sulfate and concentrated in vacuo. The crude product is purified twice by column chromatography (silica gel, hexane/ethylacetate gradient: 7:1→1:1). The desired product was obtained in 48.7% yield (358 mg, 0.45 mmol).

reactant | di-tert-butyl N-(tert-butoxycarbonyl)-L-glutamate | 0.91 mmol, 327 mg | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H33NO6
reactant | lithium bis(trimethylsilyl)amide | 2 mmol, 2 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-[2-(benzyloxy)ethoxy]-4-(bromomethyl)-2-tert-butoxybenzene | 0.76 mmol, 300 mg | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)CBr)OC(C)(C)C | C20H25BrO3
reactant | hydrogen chloride | 2N, 4.5 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | di-tert-butyl (4S)-4-{4-[2-(benzyloxy)ethoxy]-3-tert-butoxybenzyl}-N-(tert-butoxycarbonyl)-L-glutamate | 48.7% yield | C(C1=CC=CC=C1)OCCOC1=C(C=C(C[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1)OC(C)(C)C | C38H57NO9
